US04638005
1-Methyl-3-(1-nitroisopropyl)pyrazinium iodide (3700)
2.0 g of 2-(1-nitroisopropyl)pyrazine (3600) was dissolved in 10 ml of methanol, 5 ml of methyl iodide added and the solution refluxed for 4 days. The solvent was removed and the residue was taken up in water and washed with chloroform. It was then chromatographed (Biogel P-2/water) and freeze-dried giving 3.2 g of product (3700). It was recrystallized from ethyl acetate/ethanol, m.p. 135°-6°. UV H2O max: 227 (4.18), 281 (3.89).

reactant | 2-(1-nitroisopropyl)pyrazine | 2.0 g | [N+](=O)([O-])C(C)(C)C1=NC=CN=C1 | C7H9N3O2
reactant | methyl iodide | 5 ml | CI | CH3I
solvent | methanol | 10 ml | CO | CH4O
product | 1-Methyl-3-(1-nitroisopropyl)pyrazinium iodide | 3.2 g | [I-].C[N+]1=CC(=NC=C1)C(C)(C)[N+](=O)[O-] | InChI=1S/C8H12N3O2.HI/c1-8(2,11(12)13)7-6-10(3)5-4-9-7;/h4-6H,1-3H3;1H/q+1;/p-1
